US07354932B2
An anhydrous DMF solution (120 mL) of 2-bromo-3-but-3-enyloxy-pyridine (6.43 g, 28.2 mmol) in a round bottom schlenk flask was degassed with argon using the freeze/pump/thaw method. To this freshly degassed solution was added triphenylphosphine (2.66 g, 10.2 mmol), palladium acetate (696 mg, 3.10 mmol), potassium acetate (13.84 g, 141 mmol), and tetraethylammoniumchloride hydrate (9.35 g, 56.4 mmol). The resultant mixture was heated at 110 IC under argon for 18 hours. The reaction mixture was cooled to room temperature and diluted with EtOAc (300 mL), brine (120 mL) and H2O (60 mL). The organic phase was separated and washed with brine (3×120 mL) and dried over Na2SO4. Evaporation of the solvent and purification of the residue by flash chromatograph on silica gel (Hexanes/EtOAc, 95:5) afforded 4-methylene-3,4-dihydro-2H-pyrano[3,2-b]pyridine (2.8 g, 67%) as a white solid. 1H NMR (CDCl3) δ 2.79-2.86 (m, 2H), 4.25 (t, 2H, J=5.7 Hz), 5.08 (d, 1H, J=1.6 Hz), 6.19 (d, 1H, J=1.6 Hz), 7.08-7.17 (m, 2H), 8.20 (dd, 1H, J=4.7, 1.6 Hz).

reactant | DMF | 120 mL | CN(C)C=O | C3H7NO
reactant | 2-bromo-3-but-3-enyloxy-pyridine | 28.2 mmol, 6.43 g | BrC1=NC=CC=C1OCCC=C | C9H10BrNO
reactant | triphenylphosphine | 10.2 mmol, 2.66 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium acetate | 141 mmol, 13.84 g | C(C)(=O)[O-].[K+]
catalyst | tetraethylammoniumchloride hydrate | 56.4 mmol, 9.35 g | O.[Cl-].C(C)[N+](CC)(CC)CC
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
solvent | brine | 120 mL | [Cl-].[Na+].O
solvent | H2O | 60 mL | O | H2O
catalyst | palladium acetate | 3.10 mmol, 696 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-methylene-3,4-dihydro-2H-pyrano[3,2-b]pyridine | 2.8 g, 67% | C=C1CCOC=2C1=NC=CC2 | C9H9NO
